US03997552
11.2 g (0.12 mol) of aniline are added dropwise, whilst stirring, to 8.7 g (0.03 mol) of 2,4-dichloro-4,5-diphenyl-4H-imidazole in 150 ml of ether. The mixture was then stirred for 20 hours at room temperature. The precipitate produced was filtered off and dried. After adding methylene chloride, the solution was repeatedly washed with water and then dried over sodium sulphate, and the solvent was distilled off. The oily residue crystallised on addition of a little ether. The product obtained was recrystallised from benzene/petroleum ether. 5.2 g (44% of theory) of 2,4-diphenylamino-4,5-diphenyl-4H-imidazole of melting point 153° - 156° C were obtained.

reactant | aniline | 0.12 mol, 11.2 g | NC1=CC=CC=C1 | C6H7N
reactant | 2,4-dichloro-4,5-diphenyl-4H-imidazole | 0.03 mol, 8.7 g | ClC=1N=C(C(N1)(C1=CC=CC=C1)Cl)C1=CC=CC=C1 | C15H10Cl2N2
solvent | ether | 150 ml | CCOCC | C4H10O
product | 2,4-diphenylamino-4,5-diphenyl-4H-imidazole | 5.2 g, 44% | C1(=CC=CC=C1)NC=1N=C(C(N1)(C1=CC=CC=C1)NC1=CC=CC=C1)C1=CC=CC=C1 | C27H22N4
